US09278983B2
To a mixture of 3-methyl-2-(2-methylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (0.32 g), methanol (4 ml) and water (6 ml), sodium periodate (0.42 g) was added under ice-cooling. The mixture was heated to room temperature, and stirred for 1 hour, and then heated to 40° C., and stirred with heating for further 1 hour. Into the reaction mixture cooled to room temperature saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium thiosulfate solution were poured, and extracted with chloroform 2 times. The combined organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 0.32 g of 2-(2-methylsulfinylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 2).

reactant | 3-methyl-2-(2-methylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.32 g | CN1C(=NC=2C1=NC=C(C2)C(F)(F)F)C2=C(C=CC=C2)SC | C15H12F3N3S
reactant | sodium periodate | 0.42 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 6 ml | O | H2O
solvent | methanol | 4 ml | CO | CH4O
product | 2-(2-methylsulfinylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.32 g | CS(=O)C1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C15H12F3N3OS
